US06762303B2
Synthesis of 1-isobutyloxycarbonyl-4-phenyl-1,4-dihydropyridine (Compound I-2)
1.9 g (0.01 mole) of CuI was added to a mixture of 18.7 g (0.236 mole) of pyridine and 150 ml of tetrahydrofuran under a N2 atmosphere, with stirring. The mixture was stirred at room temperature until the mixture became a homogeneous solution, and thereafter a solution of 28.7 g (0.21 mole) of isobutyl chloroformate and 20 ml of tetrahydrofuran was added dropwise, on an ice bath, so that the inner temperature of the reactor could not exceed 20° C. Further, 100 ml of 2M phenyl magnesium chloride solution (0.2 mole; a THF solution) was added to the mixture dropwise, over 1 hour, at the inner temperature of 0±3° C. (i.e., −3° C. to 3° C.). The mixture was stirred for 20 minutes at the temperature of 0±3° C., and further stirred for 1 hour 25° C. After removing about 60 ml of tetrahydrofuran by vacuum distillation, 180 ml of toluene was added, and then 60 g (0.061 mole) of 10% sulfuric acid was added dropwise. The resulting precipitate was removed by filtration through celite, and then the celite was washed with 40 ml of toluene. After removing the aqueous layer of the filtrate, the organic layer of the filtrate was washed twice with 180 ml each of 10% hydrochloric acid, and twice with 180 ml each of water. The organic layer was concentrated under a reduced pressure to obtain Compound I-2: obtained amount 51.0 g; purity 86.0% (determined by HPLC); yield 85.2%.

reactant | pyridine | 0.236 mole, 18.7 g | N1=CC=CC=C1 | C5H5N
reactant | isobutyl chloroformate | 0.21 mole, 28.7 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | phenyl magnesium chloride | 2M, 100 ml | C1(=CC=CC=C1)[Mg]Cl
reactant | sulfuric acid | 0.061 mole, 60 g | S(O)(O)(=O)=O | H2O4S
catalyst | CuI | 0.01 mole, 1.9 g | [Cu]I
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-isobutyloxycarbonyl-4-phenyl-1,4-dihydropyridine | yield 85.2% | C(C(C)C)OC(=O)N1C=CC(C=C1)C1=CC=CC=C1 | C16H19NO2
